US06048864
(b) 1-(t-Butyloxycarbonyl)-4-(4-morpholinecarbonyl)-1,4-diazepane
A solution of 1-(t-butyloxycarbonyl)-1,4-diazepane (92.0 g, 0.46 mol) and triethylamine (96.0 ml, 69.7 g, 0.69 mol) in dichloromethane (500 ml) at 0° C. was treated dropwise with a solution of 4-morpholinecarbonyl chloride (64.0 ml, 82.0 g, 0.55 mol) in dichloromethane (100 ml) and the reaction was stirred at room temperature under nitrogen for 18 hours. The reaction mixture was then diluted with dichloromethane (400 ml) and washed with 2N citric acid (3×400 ml), saturated brine (1×500 ml), dried over MgSO4 and evaporated to give the subtitle compound as an off-white solid (141.7 g, 98%). Rf 0.80 (0.880 aqueous ammonia:methanol:dichloromethane 1:10:90, v/v). MS m/z 314 (MH)+. Found: C,57.50; H,8.69; N,13.41; C15H27N3O4 requires C, 57.50; H, 8.69; N,13.41%.

reactant | 1-(t-butyloxycarbonyl)-1,4-diazepane | 0.46 mol, 92.0 g | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | triethylamine | 0.69 mol, 96.0 ml, 69.7 g | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinecarbonyl chloride | 0.55 mol, 64.0 ml, 82.0 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-(t-Butyloxycarbonyl)-4-(4-morpholinecarbonyl)-1,4-diazepane | 141.7 g, 98% | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)N1CCOCC1 | C15H27N3O4
